US08227462B2
1-(4-Bromo-pyridin-2-yl)-cyclopropanecarbonitrile
LiHMDS (1M in toluene, 17.6 mL, 17.6 mmol, 3.1 eq) is added dropwise to a cold (−5° C.) mixture of 4-bromo-2-fluoro-pyridine [Marsais, F. et al, Journal of Organic Chemistry, (1992), 57, 565-573] (1 g, 5.7 mmol), cyclopropanecarbonitrile (1.25 mL, 17 mmol, 3 eq), 4 Å molecular sieves and toluene (20 mL). The reaction mixture is allowed to warm to II, stirred for 16 h, poured into H2O and filtered. The filtrate is diluted with EtOAc/H2O and extracted with EtOAc. The organic phase is washed with H2O and brine, dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (Hex/EtOAc, 9:1), to afford 620 mg of the title compound as a white solid: ESI-MS: 223.1/225.1 [M+H]+; tR=4.22 min (System 1); TLC: Rf=0.25 (Hex/EtOAc, 9:1).

reactant | LiHMDS | 17.6 mmol, 1M, 17.6 mL, 3.1 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-bromo-2-fluoro-pyridine | 5.7 mmol, 1 g | BrC1=CC(=NC=C1)F | C5H3BrFN
reactant | cyclopropanecarbonitrile | 17 mmol, 1.25 mL, 3 eq | C1(CC1)C#N | C4H5N
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | 1-(4-Bromo-pyridin-2-yl)-cyclopropanecarbonitrile | 620 mg | BrC1=CC(=NC=C1)C1(CC1)C#N | C9H7BrN2
